US03951958
A solution of 350 mg. of 1,3-diacetoxy-8α-estra-1,3,5(10),16-tetraene in 15 ml. of ether is combined with 7 ml. of a 12% strength ether - monoperphthalic acid solution. After allowing the mixture to stand at room temperature for 7.5 hours, the mixture is worked up, yielding 1,3-diacetoxy-16α,17α-epoxy-8α-estra-1,3,5(10)-triene which, in the form of the crude product, is heated to the boiling point with 30 ml. of glacial acetic acid for 2-3 hours. After concentration under vacuum, the residue is heated, for purposes of esterification, with 2 ml. of pyridine and 2 ml. of acetic anhydride for 1.5 hours on a steam bath under N2. After the mixture has been introduced into ice water, it is taken up in methylene chloride and worked up, thus producing, after purification by chromatography on SiO2, 1,3,16β,17α-tetraacetoxy-8α-estra-1,3,5(10)-triene.

reactant | 1,3-diacetoxy-8α-estra-1,3,5(10),16-tetraene | C(C)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC=C[C@@]4(C)CC[C@@H]3C12)OC(C)=O | C22H26O4
reactant | ether monoperphthalic acid | CCOCC.C1=CC=C(C(=C1)C(=O)O)C(=O)OO
solvent | ether | CCOCC | C4H10O
product | 1,3-diacetoxy-16α,17α-epoxy-8α-estra-1,3,5(10)-triene | C(C)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4C[C@@H]5[C@H]([C@@]4(C)CC[C@@H]3C12)O5)OC(C)=O | C22H26O5
